US04123256
A solution of 4-(4-isopropylbenzyloxy)phenyl isocyanate (4.5 g) in methylene chloride (50 ml) is added dropwise to a solution of hydroxylamine hydrochloride (5.4 g) and sodium hydroxide (4 g) in water (15 ml) at a temperature below 20° C. The reaction mixture is diluted with water and filtered to give N-[4-(4-isopropylbenzoyloxy)-phenyl]-N'-hydroxyurea (4.1 g).

reactant | 4-(4-isopropylbenzyloxy)phenyl isocyanate | 4.5 g | C(C)(C)C1=CC=C(COC2=CC=C(C=C2)N=C=O)C=C1 | C17H17NO2
reactant | hydroxylamine hydrochloride | 5.4 g | Cl.NO
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 15 ml | O | H2O
product | N-[4-(4-isopropylbenzoyloxy)-phenyl]-N'-hydroxyurea | 4.1 g | C(C)(C)C1=CC=C(C(=O)OC2=CC=C(C=C2)NC(=O)NO)C=C1 | C17H18N2O4
